US06610688B2
Synthesis of 4-(3-Chloro-4-fluoro-phenylamino)-5-[3,5-dimethyl-4-(morpholine-4-carbonyl)-1H-pyrrol-2-yl-methylene]-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one (Formula 43)
A mixture of 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (70 mg, 0.25 mmol), 3,5-dimethyl-4-(morpholine-4-carbonyl)-1H-pyrrole-2-carbaldehyde (70.9 mg, 0.3 mmol) and piperidine (3 drops) in ethanol (2 mL) was stirred at room temperature for 4 days. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 98.5 mg (79%) of the title compound. 1H NMR (360 MHz, DMSO-d6) δ 13.28 (br s, 1H, NH), 11.68 (br s, 1H, NH), 9.12 (br s, 1H), 8.29 (s, 1H), 7.71 (m, 1H), 7.40 (m, 1H), 7.31-7.36 (m, 2H), 3.56 (m, 4H, 2×CH2), 3.45 (m, 4H,2×CH2), 2.31 (s, 3H, CH3), 2.14 (s, 3H, CH3). MS 497 [M++1].

reactant | 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.25 mmol, 70 mg | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2)=O | C12H8ClFN4O
reactant | 3,5-dimethyl-4-(morpholine-4-carbonyl)-1H-pyrrole-2-carbaldehyde | 0.3 mmol, 70.9 mg | CC1=C(NC(=C1C(=O)N1CCOCC1)C)C=O | C12H16N2O3
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-(3-Chloro-4-fluoro-phenylamino)-5-[3,5-dimethyl-4-(morpholine-4-carbonyl)-1H-pyrrol-2-yl-methylene]-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one | 98.5 mg, 79% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2=CC=2NC(=C(C2C)C(=O)N2CCOCC2)C)=O | C24H22ClFN6O3
